US08664401B2
Step B) 2-(4-bromo-3-fluoro-2-methylphenoxy)tetrahydro-2H-pyran
2-(4-bromo-3-fluorophenoxy)tetrahydro-2H-pyran (1200 mg, 4.4 mmol) was dissolved in tetrahydrofuran (22 mL, 0.2M) under nitrogen and cooled to −78° C. To this was added (600 mg, 5.6 mmol) lithium diisopropylamide in solution dropwise over 5 minutes. The reaction mixture was stirred for 1 h at −78° C. Methyl iodide (948 mg, 6.5 mmol) was then added dropwise. The reaction was stirred at −78° C. for 30 min and allowed to warm to RT overnight. The mixture was quenched with water and 10 mL of saturated aqueous ammonium chloride solution. The reaction was extracted with diethyl ether (3×). The organic layer was dried over sodium sulfate, filtered and evaporated to yield 1.17 g (93%) of a light yellow mix of solid and oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.57-1.78 (m, 3H) 1.85-1.93 (m, 2H) 1.95-2.08 (m, 1H) 2.21 (d, J=2.34 Hz, 3H) 3.61 (m, J=11.27, 3.98, 3.98, 1.46 Hz, 1H) 3.78-3.88 (m, 1H) 5.41 (t, J=3.12 Hz, 1H) 6.81 (dd, J=8.98, 1.37 Hz, 1H) 7.27 (d, J=16.98 Hz, 1H)

reactant | 2-(4-bromo-3-fluorophenoxy)tetrahydro-2H-pyran | 4.4 mmol, 1200 mg | BrC1=C(C=C(OC2OCCCC2)C=C1)F | C11H12BrFO2
reactant | lithium diisopropylamide | 5.6 mmol, 600 mg | C(C)(C)[N-]C(C)C.[Li+]
reactant | Methyl iodide | 6.5 mmol, 948 mg | CI | CH3I
solvent | tetrahydrofuran | 0.2M, 22 mL | O1CCCC1 | C4H8O
product | 2-(4-bromo-3-fluoro-2-methylphenoxy)tetrahydro-2H-pyran | BrC1=C(C(=C(OC2OCCCC2)C=C1)C)F | C12H14BrFO2
